US08304434B2
Step 5: 2-[(1-methyl-1-piperidin-4-ylethyl)sulfonyl]-6-(trifluoromethyl)pyridine
To a 25 ml round bottom flask was added tert-butyl 4-(1-methyl-1-{[6-(trifluoromethyl)pyridin-2-yl]sulfonyl}ethyl)piperidine-1-carboxylate (0.806 g, 1.85 mmol), trifluoroacetic acid (1.5 ml) and dichloromethane (5 ml). The resulting solution was stirred at room temperature for 1 hour. It was diluted with 50 ml ethyl acetate, washed with 50 ml 10% KOH and then 30 ml brine. The organics were dried over sodium sulfate, filtered and concentrated to give 0.33 g desired product as cyrstalline solid.

reactant | tert-butyl 4-(1-methyl-1-{[6-(trifluoromethyl)pyridin-2-yl]sulfonyl}ethyl)piperidine-1-carboxylate | 1.85 mmol, 0.806 g | CC(C)(S(=O)(=O)C1=NC(=CC=C1)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C19H27F3N2O4S
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(1-methyl-1-piperidin-4-ylethyl)sulfonyl]-6-(trifluoromethyl)pyridine | 0.33 g | CC(C)(C1CCNCC1)S(=O)(=O)C1=NC(=CC=C1)C(F)(F)F | C14H19F3N2O2S
